US07842713B2
7-Methoxy-2,2-dimethyl-N-(1-methyl-1H-pyrazol-3-yl)-2,3-dihydrobenzofuran-5-carboxamide
To a solution of 7-methoxy-2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid (24 g, 0.11 mol) in CH2Cl2 (500 mL) were added EDCI (31.6 g, 1.08 mol), NMM (54.5 g, 0.54 mol), HOBt (22 g, 0.16 mol) and 1-methyl-1H-pyrazol-3-ylamine (11 g, 0.11 mol) sequentially. The mixture was stirred at room temperature overnight. TLC (EtOAc/petroleum ether=1/1) showed the reaction was complete. The mixture was washed with water (250 mL), sat. aq. citric acid (250 mL×2), sat. NaHCO3 (250 mL) and brine (250 mL) sequentially. The organic phase was dried over Na2SO4 and concentrated to give a white solid. The crude solid was purified by column chromatography (EtOAc/petroleum ether=1/10˜1/1) to give the title compound (9.6 g, 30%) as a white solid. 1H NMR (400 MHz, DMSO): δ 10.49 (s, 1H), 7.49 (s, 1H), 7.44 (s, 2H), 6.48 (s, 1H), 3.74 (s, 3H), 3.69 (s, 3H), 2.96 (s, 2H), 1.35 (s, 6H).

reactant | 7-methoxy-2,2-dimethyl-2,3-dihydrobenzofuran-5-carboxylic acid | 0.11 mol, 24 g | COC1=CC(=CC=2CC(OC21)(C)C)C(=O)O | C12H14O4
reactant | EDCI | 1.08 mol, 31.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | NMM | 0.54 mol, 54.5 g | CN1CCOCC1 | C5H11NO
reactant | HOBt | 0.16 mol, 22 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-1H-pyrazol-3-ylamine | 0.11 mol, 11 g | CN1N=C(C=C1)N | C4H7N3
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-N-(1-methyl-1H-pyrazol-3-yl)-2,3-dihydrobenzofuran-5-carboxamide | 9.6 g, 30% | COC1=CC(=CC=2CC(OC21)(C)C)C(=O)NC2=NN(C=C2)C | C16H19N3O3
